US06953785B2
A THF solution (15 mL) of 2-isopropylamino-1-propanol (1.23 g, 10.5 mmol) was added dropwise to a suspension of sodium hydride (504 mg, 0.29 mmol, 60% oil) in THF (9 mL), and the mixture was stirred at the same temperature for 15 minutes. Next, chloromethyl methyl ether (1.20 mL, 15.8 mmol) was added thereto, and the mixture stirred at room temperature for 45 minutes. An aqueous saturated sodium hydrogencarbonate solution was added to the reaction mixture, and then the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and isopropyl-(2-methoxymethoxy-1-methylethyl)amine (0.91 g; yield 54%) was thus obtained. 1H-NMR (CDCl3) δ(ppm): 1.05 (d, J=6.1 Hz, 3H), 1.06 (d, J=5.3 Hz, 3H), 1.08 (d, J=5.3 Hz, 3H), 2.94 (m, 2H), 3.36 (s, 3H), 3.38 (m, 1H), 3.47 (m, 1H), 4.63 (s, 2H).

reactant | 2-isopropylamino-1-propanol | 10.5 mmol, 1.23 g | C(C)(C)NC(CO)C | C6H15NO
reactant | sodium hydride | 0.29 mmol, 504 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 15.8 mmol, 1.20 mL | COCCl | C2H5ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | isopropyl-(2-methoxymethoxy-1-methylethyl)amine | 0.91 g, yield 54% | C(C)(C)NC(COCOC)C | C8H19NO2
